US05661161
Step C: Preparation of Methyl 2(S)-amino-3-acetylaminopropionate
To a solution of methyl 2(S)-benzyloxycarbonylamino-3-acetylaminopropionate (2.2 g) in ethanolic HCl was added 10% Pd/C (0.3 g) under nitrogen atmosphere. Hydrogen was applied to the mixture at 60 psi for 16 h. The mixture was filtered and concentrated in vacuo. The residue was triturated with diethyl ether to obtain the product. NMR (300 MHz, CD3OD) δ 4.20 (1H, m), 3.88 (3H, s), 3.82 (1H, m), 3.60 (1H, m), 1.99 (3H, s).

reactant | methyl 2(S)-benzyloxycarbonylamino-3-acetylaminopropionate | 2.2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CNC(C)=O | C14H18N2O5
reactant | Hydrogen | [H][H] | H2
solvent | HCl | Cl | ClH
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | Methyl 2(S)-amino-3-acetylaminopropionate | N[C@H](C(=O)OC)CNC(C)=O | C6H12N2O3
